US05478845
Tropic acid (4.1 g, 25 mmol) in 50 ml 10N NaOH was stirred at 100° C. for 16 h. Upon cooling on ice, 50 ml conc. HCl was added slowly. The formed white crystals were isolated and dried to give 2.7 g 2-phenyl-acrylic acid. M.p. 97°-99° C.

reactant | Tropic acid | 25 mmol, 4.1 g | C(C(CO)C1=CC=CC=C1)(=O)O | C9H10O3
reactant | HCl | 50 ml | Cl | ClH
solvent | NaOH | 10N, 50 ml | [OH-].[Na+]
product | 2-phenyl-acrylic acid | 2.7 g | C1(=CC=CC=C1)C(C(=O)O)=C | C9H8O2
